US04371531
Phosphoryl chloride (1.214 g.), N,N-dimethylformamide (0.579 g.) and ethyl acetate (3 ml.) were treated in a conventional manner to prepare a Vilsmeier reagent. To the reagent was added 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid (syn isomer, 2.00 g.) at -10° C., and stirred at the same temperature for 20 minutes. On the other hand, trimethylsilylacetamide (6.93 g.) was added to a suspension of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.18 g.) in ethyl acetate (50 ml.), and stirred at 40° C. for an hour. To the solution was added the activated acid solution at -10° C. and stirred at the same temperature for an hour. Water (20 ml.) was added to the resultant solution and the organic layer was separated. The solution was washed with water (20 ml.) twice and dried. After concentrating the solution in vacuo, the residue was pulverized with diisopropyl ether (50 ml.). The precipitates were collected by filtration and dried to give 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.4 g.).

reactant | Phosphoryl chloride | 1.214 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid | 2.00 g | O1CCSC=C1C(C(=O)O)=NOCCCCCC | C12H19NO4S
reactant | trimethylsilylacetamide | 6.93 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.18 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 0.579 g | CN(C=O)C | C3H7NO
product | 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.4 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCCCCC | C22H29N7O6S3
